US07112611B2
Stage 1.3: 4-Cyclopropylmethoxy-benzenesulfonyl chloride
To a suspention of 100 g (399.6 mmol) of 4-cyclopropylmethoxy-benzenesulfonic acid sodium salt, 186.55 ml (2557.5 mmol) of thionyl chloride and 6.19 ml (80 mmol) of DMF are added dropwise at r.t. After stirring for 15 h, the mixture is poured into ice water and extracted with CH2Cl2. The combined extracts are washed with H2O, dried over MgSO4 and concentrated under reduced pressure to give the title compound as a colorless solid; 1H-NMR (400 MHz, CDCl3): 0.35–0.45 (m, 2H), 0.65–0.75 (m, 2H), 1.25–1.35 (m, 1H), 3.91 (d, 2H, J=7.04 Hz), 7.02 (d, 2H, J=9.04 Hz), 7.96 (d, 2H, J=9.04 Hz).

reactant | 4-cyclopropylmethoxy-benzenesulfonic acid sodium salt | 399.6 mmol, 100 g | [Na+].C1(CC1)COC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | thionyl chloride | 2557.5 mmol, 186.55 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 80 mmol, 6.19 ml | CN(C)C=O | C3H7NO
product | 4-Cyclopropylmethoxy-benzenesulfonyl chloride | C1(CC1)COC1=CC=C(C=C1)S(=O)(=O)Cl | C10H11ClO3S
